US07622583B2
4-Chloro-N-[5-chloro-2-(8-fluoro-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide
8-Fluoro-3,4-dihydro-2H-benzo[1,4]oxazine, 5-chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid, T3P, and Et3N were reacted according to the procedure D to provide the title compound. HPLC purification provided 4-chloro-N-[5-chloro-2-(8-fluoro-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide. Reverse phase HPLC gradient acetonitrile 0.1% TFA 20-95% in 4 min: 2.986 min. MS m/z 550.1 (M+H).

reactant | 8-Fluoro-3,4-dihydro-2H-benzo[1,4]oxazine | FC1=CC=CC=2NCCOC21 | C8H8FNO
reactant | 5-chloro-3-(4-chloro-3-(trifluoromethyl)phenylsulfonamido)picolinic acid | ClC=1C=C(C(=NC1)C(=O)O)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C13H7Cl2F3N2O4S
reactant | T3P | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | Et3N | CCN(CC)CC | C6H15N
product | 4-Chloro-N-[5-chloro-2-(8-fluoro-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl)-pyridin-3-yl]-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(=O)N1CCOC2=C1C=CC=C2F)C(F)(F)F | C21H13Cl2F4N3O4S
